US07470790B2
Synthesis of [6-(1-benzyl-4-hydroxy-pyrrolidin-3-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester (I-3)
A solution of (6-methyl-pyridin-2-yl)-carbamic acid tert-butyl ester I-1 (0.00625 mol) in 10 mL THF was cooled in a −78° C. bath (acetone/dry ice). n-BuLi (1.6 M in hexanes, 0.0125 mol) was added during 15 min. under N2. The color of solution was changed from colorless to orange. Then the cooling bath was removed. After 45 min stirring at room temperature, the color solution was changed into dark red. The solution was then returned to the −78° C. bath. 3-Benzyl-6-oxa-3-aza-bicyclo[3.1.0]hexane I-2 (0.005 mol) in 10 mL THF was added during 1 h. After 2 h, the cooling bath was removed. The solution was stirred for 2 h more at room temperature. The reaction was quenched by the addition of ice-cold water (50 ml). The mixture was extracted with CH2Cl2 (30 ml×3). The combined organic layers were washed with brine and dried over anhydrous MgSO4. The solvent was removed in vacuo and the residue was purified by column chromatography (silica gel, CH2Cl2 MeOH, 9:1) (90%).

reactant | (6-methyl-pyridin-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=CC=C1)C)=O | C11H16N2O2
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | n-BuLi | 0.0125 mol, 1.6 M | [Li]CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [6-(1-benzyl-4-hydroxy-pyrrolidin-3-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=CC=C1)CC1CN(CC1O)CC1=CC=CC=C1)=O | C22H29N3O3
